US06555560B2
5-Fluoro-3-[1,2,3,6-tetrahydro-1-[(2,3,8,9-tetrahydro-7H-pyrano[2,3-f][1,4]benzodioxin-2-yl)methyl]-4-pyridinyl]-1H-indole
To a mixture of (2R)-2,3,8,9-tetrahydro-7H-[1,4]dioxino[2,3-h]chromen-2-ylmethyl 4-methylbenzenesulfonate (0.25 g, 0.66 mmole) and potassium carbonate (0.22 g, 1.55 mmole) in 1:1 tetrahydrofuran/dimethylformamide (20 mL) was added 0.45 g (2.08 mmole) of 5-fluoro-3-(1,2,3,6-tetrahydro-4-pyridinyl)-1H-indole. The reaction mixture was refluxed under nitrogen for six hours. After completion, the mixture was evaporated to dryness under reduced pressure and the residue was column chromatographed on silica gel with methylene chloride to remove impurities and 4% methanol/methylene chloride to elute the desired product as an oil, which was crystallized from isopropanol with the addition of a solution of oxalic acid in hot isopropanol to give 0.040 g (6%) of the (S)-enantiomer of the title compound as a dark yellow solid, m.p. 146-148° C.

reactant | (2R)-2,3,8,9-tetrahydro-7H-[1,4]dioxino[2,3-h]chromen-2-ylmethyl 4-methylbenzenesulfonate | 0.66 mmole, 0.25 g | CC1=CC=C(C=C1)S(=O)(=O)OC[C@@H]1OC2=C(C=CC=3CCCOC23)OC1 | C19H20O6S
reactant | potassium carbonate | 1.55 mmole, 0.22 g | C([O-])([O-])=O.[K+].[K+]
reactant | 5-fluoro-3-(1,2,3,6-tetrahydro-4-pyridinyl)-1H-indole | 2.08 mmole, 0.45 g | FC=1C=C2C(=CNC2=CC1)C=1CCNCC1 | C13H13FN2
solvent | tetrahydrofuran dimethylformamide | 20 mL | O1CCCC1.CN(C=O)C
product | 5-Fluoro-3-[1,2,3,6-tetrahydro-1-[(2,3,8,9-tetrahydro-7H-pyrano[2,3-f][1,4]benzodioxin-2-yl)methyl]-4-pyridinyl]-1H-indole | FC=1C=C2C(=CNC2=CC1)C=1CCN(CC1)CC1OC2=C(OC1)C=CC1=C2OCCC1 | C25H25FN2O3
